US03931269
A mixture of 0.1 moles of ethyl α-bromo-6-methoxy-2-naphthylacetate and 150 g. of sodium iodide in 1 liter of anhydrous acetone is refluxed for 4 hours. The reaction mixture is then evaporated to dryness and extracted with ether. The ether is then washed with water, dried and evaporated to dryness to obtain ethyl α-iodo-6-methoxy-2-naphthylacetate.

reactant | ethyl α-bromo-6-methoxy-2-naphthylacetate | 0.1 moles | BrC(C(=O)OCC)C1=CC2=CC=C(C=C2C=C1)OC | C15H15BrO3
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | 1 liter | CC(=O)C | C3H6O
product | ethyl α-iodo-6-methoxy-2-naphthylacetate | IC(C(=O)OCC)C1=CC2=CC=C(C=C2C=C1)OC | C15H15IO3
